US08404859B2
(S)-2-([5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carbonyl]-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid
To a solution of (S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester (109.6 mg, 0.020 mmol) in THF (4 mL) was added a solution of lithium hydroxide monohydrate (84 mg, 2.0 mmol) in water (6 mL). The mixture was then stirred at room temperature 2 d. The mixture was then acidified with 1N HCl and extracted with EtOAc (×3). The extracts were combined, washed with water and brine, dried over sodium sulfate, filtered, and evaporated to pure product, 85.8 mg (79%). MS m/e 540.0 (M+H+).

reactant | (S)-2-({5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.020 mmol, 109.6 mg | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C(C)C)C(NCC1=C2C=NNC2=CC=C1)=O)=O | C26H27N5O5S2
reactant | lithium hydroxide monohydrate | 2.0 mmol, 84 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (S)-2-([5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carbonyl]-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid | N1N=CC2=C(C=CC=C12)CNC(=O)C1=CC(=C(S1)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1)C(C)C | C25H25N5O5S2
